US08114882B2
Preparation of (2,3-dihydro-1H-indol-7-yl)-{4-[4-(quinolin-3yl-amino)pyrimidin-2-ylamino]phenyl}methanone
200 mg (0.84 mmol) of (4-aminophenyl)-(2,3-dihydro-1H-indol-7-yl)methanone and 215 mg (0.84 mmol) of (2-chloropyrimidin-4-yl)quinolin-3-ylamine are warmed at 120° C. for 2 h in 2 ml of DMSO. The organic phase is stirred with ethyl acetate and water and purified by chromatography over silica gel after phase separation, drying and evaporation, giving 500 mg of (2,3-di-hydro-1H-indol-7-yl)-{4-[4-(quinolin-3ylaminopyrimidin-2-ylamino]phenyl}-methanone. (M.p.: 235-238° C.)

reactant | (4-aminophenyl)-(2,3-dihydro-1H-indol-7-yl)methanone | 0.84 mmol, 200 mg | NC1=CC=C(C=C1)C(=O)C=1C=CC=C2CCNC12 | C15H14N2O
reactant | (2-chloropyrimidin-4-yl)quinolin-3-ylamine | 0.84 mmol, 215 mg | ClC1=NC=CC(=N1)NC=1C=NC2=CC=CC=C2C1 | C13H9ClN4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | (2,3-dihydro-1H-indol-7-yl)-{4-[4-(quinolin-3yl-amino)pyrimidin-2-ylamino]phenyl}methanone | N1CCC2=CC=CC(=C12)C(=O)C1=CC=C(C=C1)NC1=NC=CC(=N1)NC=1C=NC2=CC=CC=C2C1 | C28H22N6O
